US05231183
(E)-N-(3-Chloro-2-propenyl)-N-ethyl-3-hydroxybenzylamine
To a solution of 34.96 g (0.231 mol) of N-ethyl-3-hydroxybenzylamine in 200 ml of dimethylsulfoxide were added 25.64 g (0.231 mol) of 1,3-dichloropropene (E/Z=1) and 16.7 g (0.121 mol) of ground potassium carbonate under ice cooling. The mixture was stirred for 4 hours at 50° C., poured into 250 ml of ethyl acetate, washed with 200 ml×2 of water and 200 ml of saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=9/1). The desired fractions were put together and concentrated under reduced pressure to obtain 26.2 g (yield: 50%) of the above identified compound as an oil.

reactant | N-ethyl-3-hydroxybenzylamine | 0.231 mol, 34.96 g | C(C)NCC1=CC(=CC=C1)O | C9H13NO
reactant | 1,3-dichloropropene | 0.231 mol, 25.64 g | ClC=CCCl | C3H4Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | (E)-N-(3-Chloro-2-propenyl)-N-ethyl-3-hydroxybenzylamine | yield: 50% | Cl/C=C/CN(CC)CC1=CC(=CC=C1)O | C12H16ClNO
